US08309721B2
Synthesis of 2-[(1-methyl-1H-imidazol-4-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 165.4 mg of 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 165.8 mg of potassium carbonate, 517 mg of 2-(1-methyl-1H-imidazol-4-yl)ethylamine hydrochloride and 324 mg of triethylamine in 1.7 ml of dimethyl sulphoxide, in a microwave for 1 hour and 30 minutes at 115° C. 0.76 ml of a 1M aqueous solution of sodium hydroxide, 0.735 ml of a 30% aqueous solution of hydrogen peroxide and 4 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on 10 g of silica gel, elution being carried out with a mixture of dichloromethane and methanol (95/5 by volume), 49 mg of 2-[(1-methyl-1H-imidazol-4-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a white solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile | 165.4 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 165.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-methyl-1H-imidazol-4-yl)ethylamine hydrochloride | 517 mg | Cl.CN1C=NC(=C1)CCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 1.7 ml | CS(=O)C | C2H6OS
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | triethylamine | 324 mg | C(C)N(CC)CC | C6H15N
product | 2-[(1-methyl-1H-imidazol-4-yl)ethylamino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide | CN1C=NC(=C1)CCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C34H28N6O
